### PR TITLE
[Merged by Bors] - feat: non-integrability results of derivatives on `[a, +oo)`

### PR DESCRIPTION
**Pull request by sgouezel**
We have in the library the lemma `not_intervalIntegrable_of_tendsto_norm_atTop_of_deriv_isBigO_filter`, saying that if a function tends to infinity at a point in an interval `[a, b]`, then its derivative is not interval-integrable on `[a, b]`. We generalize this result to allow for any set instead of `[a, b]`, and apply it to half-infinite intervals.

In particular, we characterize integrability of `x^s` on `[a, +oo)`, and deduce that `x^s` is never integrable on `[0, +oo)`. This makes it possible to remove one assumption in Lemma `mellin_comp_rpow` on the Mellin transform.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/MellinTransform.lean [hunk 1]
```diff
@@ -123,19 +121,23 @@ theorem mellin_div_const (f : ℝ → ℂ) (s a : ℂ) : mellin (fun t => f t /
...
+    · simp [integral, mellin, hE]
+  · simp_rw [mellin]
+    conv_rhs => rw [← integral_comp_rpow_Ioi _ ha, ← integral_smul]
+    refine' set_integral_congr measurableSet_Ioi fun t ht => _
+    dsimp only
+    rw [← mul_smul, ← mul_assoc, inv_mul_cancel (mt abs_eq_zero.1 ha), one_mul, ← smul_assoc,
+      real_smul]
+    rw [ofReal_cpow (le_of_lt ht), ← cpow_mul_ofReal_nonneg (le_of_lt ht), ←
+      cpow_add _ _ (ofReal_ne_zero.mpr <| ne_of_gt ht), ofReal_sub, ofReal_one, mul_sub,
+      mul_div_cancel' _ (ofReal_ne_zero.mpr ha), add_comm, ← add_sub_assoc, mul_one, sub_add_cancel]
```
Comment (YaelDillies) [inline Mathlib/Analysis/MellinTransform.lean:140]: Since this is the interesting case, I would rather not indent it
```suggestion
  simp_rw [mellin]
  conv_rhs => rw [← integral_comp_rpow_Ioi _ ha, ← integral_smul]
  refine' set_integral_congr measurableSet_Ioi fun t ht => _
  dsimp only
  rw [← mul_smul, ← mul_assoc, inv_mul_cancel (mt abs_eq_zero.1 ha), one_mul, ← smul_assoc,
    real_smul]
  rw [ofReal_cpow (le_of_lt ht), ← cpow_mul_ofReal_nonneg (le_of_lt ht), ←
    cpow_add _ _ (ofReal_ne_zero.mpr <| ne_of_gt ht), ofReal_sub, ofReal_one, mul_sub,
    mul_div_cancel' _ (ofReal_ne_zero.mpr ha), add_comm, ← add_sub_assoc, mul_one, sub_add_cancel]
```

File: Mathlib/Analysis/SpecialFunctions/NonIntegrable.lean [hunk 2]
```diff
@@ -174,3 +211,19 @@ theorem intervalIntegrable_inv_iff {a b : ℝ} :
...
+    filter_upwards [Ioi_mem_atTop 0] with x hx using Real.hasDerivAt_log (ne_of_gt hx)
+  have B : Tendsto (fun x => ‖Real.log x‖) atTop atTop :=
+    tendsto_norm_atTop_atTop.comp Real.tendsto_log_atTop
+  exact not_integrableOn_of_tendsto_norm_atTop_of_deriv_isBigO_filter atTop (Ici_mem_atTop a)
+    (A.mono (fun x hx ↦ hx.differentiableAt)) B
+    (Filter.EventuallyEq.isBigO (A.mono (fun x hx ↦ hx.deriv)))
+
+/-- The function `fun x ↦ x⁻¹` is not integrable on any interval `(a, +∞)`. -/
+theorem not_IntegrableOn_Ioi_inv {a : ℝ} :
+    ¬ IntegrableOn (fun x => x⁻¹) (Ioi a) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/NonIntegrable.lean:228]:
```suggestion
    ¬ IntegrableOn (·⁻¹) (Ioi a) := by
```
if you are into that notation

File: Mathlib/MeasureTheory/Integral/IntervalIntegral.lean [hunk 3]
```diff
@@ -101,6 +101,14 @@ theorem intervalIntegrable_iff_integrable_Icc_of_le {f : ℝ → E} {a b : ℝ}
   rw [intervalIntegrable_iff_integrable_Ioc_of_le hab, integrableOn_Icc_iff_integrableOn_Ioc]
 #align interval_integrable_iff_integrable_Icc_of_le intervalIntegrable_iff_integrable_Icc_of_le
 
+theorem intervalIntegrable_iff_integrable_Ico_of_le [NoAtoms μ] (hab : a ≤ b) :
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral.lean:104]:
```suggestion
theorem intervalIntegrable_iff_integrableOn_Ico_of_le [NoAtoms μ] (hab : a ≤ b) :
```
and below

File: Mathlib/MeasureTheory/Integral/IntervalIntegral.lean [hunk 4]
```diff
@@ -101,6 +101,14 @@ theorem intervalIntegrable_iff_integrable_Icc_of_le {f : ℝ → E} {a b : ℝ}
...
+    IntervalIntegrable f μ a b ↔ IntegrableOn f (Ico a b) μ := by
+  rw [intervalIntegrable_iff_integrable_Icc_of_le hab, integrableOn_Icc_iff_integrableOn_Ico]
+
+theorem intervalIntegrable_iff_integrable_Ioo_of_le [NoAtoms μ] (hab : a ≤ b) :
+    IntervalIntegrable f μ a b ↔ IntegrableOn f (Ioo a b) μ := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral.lean:109]: I think this might be a better statement if you reverse it? It could even be simp, although I doubt this would fire often.

**Review by YaelDillies — COMMENTED** [review]
The rest looks good!

File: Mathlib/MeasureTheory/Integral/IntervalIntegral.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral.lean]: There are already several lemmas of this form, and in the library they are used roughly 50% of the time from left to right, 50% of the time from right to left, so I don't think there is a good reason to change here.

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
